US04748175
8-(2,3-Dihydroxypropyl)-2-methyl-4-(4-morpholinyl)-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one
A mixture containing 1 g of 2-methyl-4-(4-morpholinyl)-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one, 0.59 g of 2,3-epoxypropanol, 0.128 g of tetra(n-butyl)ammonium bromide and 60 ml of abs. benzene is refluxed under stirring for 7 hours. After filtering, the precipitate is washed with benzene and ether and dried to give 1.04 g (77%) of the product, m.p.: 153°-155° C.

reactant | 2-methyl-4-(4-morpholinyl)-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one | 1 g | CC=1N=C(C=2OCC(NC2N1)=O)N1CCOCC1 | C11H14N4O3
reactant | 2,3-epoxypropanol | 0.59 g | O1C(CO)C1 | C3H6O2
catalyst | tetra(n-butyl)ammonium bromide | 0.128 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 8-(2,3-Dihydroxypropyl)-2-methyl-4-(4-morpholinyl)-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one | 1.04 g, 77% | OC(CN1C2=C(OCC1=O)C(=NC(=N2)C)N2CCOCC2)CO | C14H20N4O5
